US07439257B2
12.3. 2-(ethyloxy)-2-oxoethyl 3-[(1-naphthalenyloxy)methyl]-1-pyrrolidinecarboxylate
A solution of 0.20 g (0.88 mmol) of 3-[(1-naphthalenyloxy)methyl]pyrrolidine, prepared in Step 12.2., and 0.35 g (1.5 mmol) of ethyl [(phenyloxycarbonyl)oxy]acetate, prepared in accordance with Example 1.1, in 6 ml of toluene is heated at 60° C. overnight. It is evaporated to dryness and the residue is taken up in a mixture of water, dichloromethane and saturated aqueous sodium hydrogen carbonate solution. The organic phase is decanted, dried over sodium sulfate and evaporated to dryness. The residue is purified by chromatography on a silica gel column, eluting with dichloromethane and then with a 99/1 mixture of dichloromethane and methanol. This gives 0.24 g of product in oil form, which is used as it is in the following step.

reactant | 3-[(1-naphthalenyloxy)methyl]pyrrolidine | 0.88 mmol, 0.20 g | C1(=CC=CC2=CC=CC=C12)OCC1CNCC1 | C15H17NO
reactant | ethyl [(phenyloxycarbonyl)oxy]acetate | 1.5 mmol, 0.35 g | C1(=CC=CC=C1)OC(=O)OCC(=O)OCC | C11H12O5
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(ethyloxy)-2-oxoethyl 3-[(1-naphthalenyloxy)methyl]-1-pyrrolidinecarboxylate | C1(=CC=CC2=CC=CC=C12)OCC1CN(CC1)C(=O)OCC(=O)OCC | C20H23NO5
